US07576215B2
[4-(2-{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}ETHYL)PHENYL]ACETIC ACID
A solution of [4-({3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}ethynyl)-phenyl]acetic acid (50 mg, 0.09 mmol), in ethyl acetate:acetic acid (8:1, 4.0 mL) is treated with Pd/C (10%) (3 mg) and placed on a PARR hydrogenator under 40 psi H2 The reaction filtered through celite and concentrated in vacuo. After chromatography (ethyl acetate:hexane, 33:70) the title saturated compound is obtained, 40 mg (80%). MS (ES) m/z 524.1.

reactant | [4-({3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}ethynyl)-phenyl]acetic acid | 0.09 mmol, 50 mg | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)C#CC1=CC=C(C=C1)CC(=O)O)C(F)(F)F | C33H22F3NO2
solvent | ethyl acetate acetic acid | 4.0 mL | C(C)(=O)OCC.C(C)(=O)O
catalyst | Pd/C | 3 mg | [Pd] | Pd
product | [4-(2-{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}ETHYL)PHENYL]ACETIC ACID | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)CCC1=CC=C(C=C1)CC(=O)O)C(F)(F)F | C33H26F3NO2
